US06284785B1
(RS)-2-(2,4-Dimethyl-phenyl)-1-(4-fluoro-benzenesulfonyl)-pyrrolidine
The title compound, white solid, m.p. 134° C. and MS: m/e=333 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-(2,4-dimethyl-phenyl)-pyrrolidine and 4-fluoro-benzenesulfonyl chloride.

reactant | (RS)-2-(2,4-dimethyl-phenyl)-pyrrolidine | CC1=C(C=CC(=C1)C)C1NCCC1 | C12H17N
reactant | 4-fluoro-benzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | (RS)-2-(2,4-Dimethyl-phenyl)-1-(4-fluoro-benzenesulfonyl)-pyrrolidine | CC1=C(C=CC(=C1)C)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)F | C18H20FNO2S
